US06902857B2
(a) Benzophenone-Based Ones
2-Hydroxybenzophenone, 2,4-dihydroxybenzophenone, 2,2′,4-trihydroxybenzophenone, 2,2′,4,4′-tetrahydroxybenzophonone, 2,2′-dihydroxy-4-methoxybenzophenone, and the like.

reactant | 2-Hydroxybenzophenone | OC1=C(C(=O)C2=CC=CC=C2)C=CC=C1 | C13H10O2
reactant | 2,4-dihydroxybenzophenone | OC1=C(C(=O)C2=CC=CC=C2)C=CC(=C1)O | C13H10O3
reactant | 2,2′,4-trihydroxybenzophenone | OC1=C(C(=O)C2=C(C=CC=C2)O)C=CC(=C1)O | C13H10O4
reactant | 2,2′-dihydroxy-4-methoxybenzophenone | OC1=C(C(=O)C2=C(C=CC=C2)O)C=CC(=C1)OC | C14H12O4
product | Benzophenone | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
